US05021525
A sample of mono octadecyl (monostearyl) maleate was prepared in a similar manner, but using 405 g octadecanol (1.5 moles) and 147 g maleic anhydride (1.5 moles).

reactant | octadecanol | 1.5 moles, 405 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | maleic anhydride | 1.5 moles, 147 g | C1(\C=C/C(=O)O1)=O | C4H2O3
product | mono octadecyl (monostearyl) maleate | C(\C=C/C(=O)OCCCCCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCCCC | C40H76O4
